US04379167
4-Chloro-1-(4-chloro-2-methylphenoxy)-2-butanol was prepared according to the procedure of Preparation 4 using 105 g. (0.74 mole) of 2-methyl-4-chlorophenol, 171.5 g. (1.2 mole) of 1,4-dichloro-2-butanol, 50.3 g. of sodium hydroxide, 300 ml. of water and 300 ml. of tertiary butanol. There was obtained 84 g. (45.5%) of product which distilled at 135° C./0.01 mm.

reactant | 2-methyl-4-chlorophenol | 0.74 mole | CC1=C(C=CC(=C1)Cl)O | C7H7ClO
reactant | 1,4-dichloro-2-butanol | 1.2 mole | ClCC(CCCl)O | C4H8Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | tertiary butanol | C(C)(C)(C)O | C4H10O
product | 4-Chloro-1-(4-chloro-2-methylphenoxy)-2-butanol | ClCCC(COC1=C(C=C(C=C1)Cl)C)O | C11H14Cl2O2
